US05254550
Synthesis of N-[3-[N-(2-phenylethyl)carbamoyl]propanoyl]-L-prolinol
3-[N-(2-phenylethyl)carbamoyl]propionic acid (400 mg) was dissolved into dry THF (4 ml). Triethylamine (0.32 ml) and ethyl chloroformate (0.15 ml) secondary were dropped into the solution with stirring at 0° C. After 10 mins' stirring, a solution of L-prolinol (199 mg) in THF (2 ml) was added to the solution, and the solution was stirred for 30 mins at 0° C. and for another 30 mins at room temperature. Water was added to the diluted solution with ethyl acetate. The oily layer was washed with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrocarbonate, a saturated brine, successively, dried and then evaporated. The residue was purified by column chromatography on silica gel to give the title compound (490 mg).

reactant | 3-[N-(2-phenylethyl)carbamoyl]propionic acid | 400 mg | C1(=CC=CC=C1)CCNC(=O)CCC(=O)O | C12H15NO3
reactant | Triethylamine | 0.32 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.15 ml | ClC(=O)OCC | C3H5ClO2
reactant | L-prolinol | 199 mg | N1[C@H](CO)CCC1 | C5H11NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N-[3-[N-(2-phenylethyl)carbamoyl]propanoyl]-L-prolinol | 490 mg | C1(=CC=CC=C1)CCNC(=O)CCC(=O)N1[C@H](CO)CCC1 | C17H24N2O3
